US06171664B2
50 g of 4-ethynyltoluene, 94.6 g of 4-iodophenol and 250 ml of triethylamine were mixed at RT under a nitrogen atmosphere, and 0.35 g of triphenylphosphine and 0.2 g of copper iodide were added. 0.25 g of bis(triphenylphosphine)palladium(II) chloride were then introduced with stirring. After 30 minutes, a further 0.25 g of bis(triphenylphosphine)palladium(II) chloride and after a further 15 minutes a further 0.25 g of bis(triphenylphosphine)palladium(II) chloride were introduced, during which the temperature was held at between 40 and 55° C. After the reaction mixture had been stirred overnight, it was poured into conc. HCl/ice and subjected to conventional work-up, giving 4-p-tolylethynylphenol in the form of a solid.

reactant | 4-ethynyltoluene | 50 g | C(#C)C1=CC=C(C=C1)C | C9H8
reactant | 4-iodophenol | 94.6 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | triphenylphosphine | 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | copper iodide | 0.2 g | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.25 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.25 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.25 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 250 ml | C(C)N(CC)CC | C6H15N
product | 4-p-tolylethynylphenol | C1(=CC=C(C=C1)C#CC1=CC=C(C=C1)O)C | C15H12O
